US07416682B2
4′-Undec-10-enyloxy-biphenyl-4-ol
A mixture of 10 g (0.053 mol) of 4,4′-Dihydroxy-biphenyl, 12.52 g (0.053 mol) of 11-Bromo-1-undecene, 7.42 g (0.053 mol) of K2CO3 and 120 mL of dry butanone is refluxed for 24 h, then the reaction mixture is allowed to return to room temperature. 100 mL of water is added, then the product is filtered off, washed with water and methanol. The resulting solid is recrystallised three times from butanone to give a pure white product (7.35 g, 41% yield).

reactant | 4,4′-Dihydroxy-biphenyl | 0.053 mol, 10 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | 11-Bromo-1-undecene | 0.053 mol, 12.52 g | BrCCCCCCCCCC=C | C11H21Br
reactant | K2CO3 | 0.053 mol, 7.42 g | C(=O)([O-])[O-].[K+].[K+]
reactant | butanone | 120 mL | CC(CC)=O | C4H8O
solvent | water | 100 mL | O | H2O
product | 4′-Undec-10-enyloxy-biphenyl-4-ol | 7.35 g, 41% yield | C(CCCCCCCCC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C23H30O2
